US05254718
Synthesis of 2-methoxy-2-oxoethyl 2-hydroxy-2-methylpropionate
A 6 mL aliquot of an ethyl ether solution containing 0.25 M 2-chloroethyl 2-hydroxy-2-methylpropionate, 0.25 M methyl glycolate, and 0.125% tert-butylbenzene was added to 0.5 g Lipase P30. After mixing for 48 hr at room temperature, the conversion of 2-chloroethyl 2-hydroxy-2-methylpropionate to the title compound was estimated (by GC, Method A) to be 47%. The GC peak assigned to the title compound was confirmed by HRMS: calcd for C6H10O5Tms (M--CH3) 233.0845, obsd 233.0870. In identical reactions substituting Lipase AK, Lipase MAP10, Lipase G, Lipase AP12, Protease M, or porcine pancreatic lipase for Lipase P30, the relative values for conversions at 48 hr (Lipase P30 =100) were 33, 32, 16, 14, 13 and 2, respectively.

reactant | 2-chloroethyl 2-hydroxy-2-methylpropionate | 0.25 M | OC(C(=O)OCCCl)(C)C | C6H11ClO3
reactant | methyl glycolate | 0.25 M | C(CO)(=O)OC | C3H6O3
reactant | tert-butylbenzene | C(C)(C)(C)C1=CC=CC=C1 | C10H14
reactant | ethyl ether | C(C)OCC | C4H10O
product | 2-methoxy-2-oxoethyl 2-hydroxy-2-methylpropionate | OC(C(=O)OCC(=O)OC)(C)C | C7H12O5
